US08197903B2
As shown in Reaction Scheme 24, 3-chloropropyltrivinylsilane (1.0 g, 5.35 mmol) and sodium acetate (0.87 g, 10.7 mmol) were dissolved in 17 mL of dimethylformamide (DMF), and the reaction mixture was heated at 120° C. for 12 hours. After the reaction, the organic layer was separated after addition of distilled water and ether. The organic layer was dried over MgSO4, concentrated by evaporation of solvent, and the resulting residue was purified by column chromatography (n-Hex: EA=10:1, Rf=0.4) to give 855 mg (76% yield) of pure 3-acetoxypropyltrivinylsilane.

reactant | 3-chloropropyltrivinylsilane | 5.35 mmol, 1.0 g | ClCCC[Si](C=C)(C=C)C=C | C9H15ClSi
reactant | sodium acetate | 10.7 mmol, 0.87 g | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
product | 3-acetoxypropyltrivinylsilane | 855 mg, 76% yield | C(C)(=O)OCCC[Si](C=C)(C=C)C=C | C11H18O2Si
